USRE037094E1
a) 2-Amino-4-(2,4,6-trimethylphenyl)thiazole
A solution of 80 g of 2,4,6-trimethylphenyl bromoethyl ketone bromomethylketone and 35 g of thiourea in 250 ml of methanol is refluxed for 3 hours. After cooling the reaction mixture, the precipitate is filtered off and washed abundantly with diethyl ether. After concentration of the filtrate to a third of the initial volume, a second bath of crystals is recovered. Yield: 70%. m.p.=138 168° C. The hydrobromide prepared by the action of HBr in ethanol melts at 295° C.

reactant | 2,4,6-trimethylphenyl bromoethyl ketone bromomethylketone | 80 g | BrCC(=O)CBr.BrCCC(=O)C1=C(C=C(C=C1C)C)C
reactant | thiourea | 35 g | NC(=S)N | CH4N2S
solvent | methanol | 250 ml | CO | CH4O
product | 2-Amino-4-(2,4,6-trimethylphenyl)thiazole | Yield: 70% | NC=1SC=C(N1)C1=C(C=C(C=C1C)C)C | C12H14N2S
